US05556977
Methyl 4-[1-(4-pyridyl)piperidin-4-yl]oxyphenoxyacetate
Diethylazodicarboxylate (0.47 ml) was added dropwise over 30 minutes to a stirred mixture of 1-(4-pyridyl)-4-piperidinol (534 mg), methyl 4-hydroxyphenoxyacetate (546 mg), triphenylphosphine (787 mg) and dry THF (30 ml) in an atmosphere of argon and cooled to 4° C. After 1 hour at 4° C., the mixture was allowed to reach ambient temperature and stirred for 48 hours. The solvent was removed by evaporation and the residue purified by flash chromatography on silica eluting with 5% v/v methanol/dichloromethane. Recrystallisation from ethyl acetate/hexane gave the title compound, 532 mg, as a white solid: m.p. 74°-76° C.; NMR (d6DMSO) δ8.15(2H, bd), 6.89(6H, m), 4.71(2H, s), 4.50(1H, m), 3.70(2H, m), 3.69(3H, s), 3.23(2H, m), 1.96(2H m), 1.62(2H, m); m/e 343 (M+H)+ ; calculated for C19H22N2O4 : C, 66.7; H, 6.5; N, 8.2. found: C, 66.2; H, 6.7; N, 8.2%.

reactant | Diethylazodicarboxylate | 0.47 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-(4-pyridyl)-4-piperidinol | 534 mg | N1=CC=C(C=C1)N1CCC(CC1)O | C10H14N2O
reactant | methyl 4-hydroxyphenoxyacetate | 546 mg | OC1=CC=C(OCC(=O)OC)C=C1 | C9H10O4
reactant | triphenylphosphine | 787 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Methyl 4-[1-(4-pyridyl)piperidin-4-yl]oxyphenoxyacetate | N1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(OCC(=O)OC)C=C1 | C19H22N2O4
